US05912257
In a 500-mL one-neck flask fitted with a stirrer and a condenser, 1.2 g (0.01 mol) of 4-methylbenzaldehyde, 0.01 mol of 4-methyl-N-methylpyridinium tetraphenylborate, and 30 mL of absolute ethanol were mixed. Five drops of piperidine was added to the mixture. The solution was then heated to reflux, refluxed overnight, cooled, and filtered. The collected solid was washed twice with ether and twice with water to obtain 4-[p-N-methyl-N-ethylamino)styryl]-N-methylpyridinium tetraphenylborate in 78% yield as a reddish solid.

reactant | 4-methylbenzaldehyde | 0.01 mol, 1.2 g | CC1=CC=C(C=O)C=C1 | C8H8O
reactant | 4-methyl-N-methylpyridinium tetraphenylborate | 0.01 mol | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC1=CC=[N+](C=C1)C
catalyst | piperidine | Five drops | N1CCCCC1 | C5H11N
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | N-methylpyridinium tetraphenylborate | 78% yield | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C[N+]1=CC=CC=C1 | InChI=1S/C24H20B.C6H8N/c1-5-13-21(14-6-1)25(22-15-7-2-8-16-22,23-17-9-3-10-18-23)24-19-11-4-12-20-24;1-7-5-3-2-4-6-7/h1-20H;2-6H,1H3/q-1;+1
